Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([O:2][C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][H:10])([H:7])([H:8])[H:9].[C@@:3]12([H:11])[C:4]([H:12])([H:13])[C:5]1=[C:6]2[H:14],90.9278605491567
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]([O:5][H:14])([C:6]([H:15])([H:16])[H:17])[C:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],2.529662793953804
[C-:3]#[O+:4].[C-:5]#[O+:6].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],59.73253275855659
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[C+:3](=[C:5]=[N-:6])[H:10].[O:1]([C:2]([O:4][H:11])([H:8])[H:9])[H:7],83.5343503026653
[O:1](/[C:2](=[C:3]([C:4](=[C:5](/[O:6][H:10])[H:12])\[H:11])/[H:9])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],31.972380010502967
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C@@:1]12([H:10])[C@@:2]3([H:11])[C:3]([H:12])([H:13])[C@@:4]3([H:14])[C:5]([H:15])([H:16])[C:6]1=[C:7]2[H:17].[H:8][H:9],90.2240326127907
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[C:4]([H:10])[H:11].[O:1]([C:2](=[C:3]([H:8])[H:9])[C:5]#[N:6])[H:7],97.177222593144
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])/[C:6]1=[N:7]\[C:4](=[O:5])[H:14])([H:8])([H:9])[H:10],74.7764259127277
[N:1]1([H:8])[C@@:2]2([O:3][C:4](=[O:5])[H:9])[C@:6]1([H:10])[O:7]2>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],1.548424342630284
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C-:3]=[N+:5]([C:6](=[O:7])[H:18])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:13])([H:14])([H:15])[H:16],73.30294961673529
[H:10][H:11].[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C-:5]=[O+:6]1>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,14.673495838161301
[C:1]([N:2]([C:3](=[O:4])[H:12])[H:11])([H:8])([H:9])[H:10].[N:5]1=[C:6]([H:13])[N:7]1[H:14]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],13.419684764224996
[C:4](=[O:5])([H:13])[H:14].[C:6](#[N:7])[H:15].[N:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],17.161355082321407
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[C:4](=[C:5]([H:10])[H:11])([H:8])[H:9].[N:1]#[C:2][C:3](=[O:6])[H:7],53.610542721065904
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:8][H:10].[O:1](/[C:2](=[C:3](/[O:4][C:5](=[O:6])[H:12])[H:11])[H:9])[H:7],92.0966123108065
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]=[C:5]=[O:6])[H:10])([H:7])([H:8])[H:9].[H:14][H:15],70.545520300586
[C:1]([N:2]=[C:3]=[O:4])([H:5])([H:6])[H:7].[H:8][H:9]>>[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7],59.621382387662
[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3]([C:4]([H:8])([H:11])[H:12])([H:9])[H:10])([O:5][H:13])([H:6])[H:7],96.75440183241841
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@:3]1([H:11])[C@@:4]([C:7](=[C:6]([H:15])[H:16])[H:17])([H:12])[C:5]1([H:13])[H:14])([H:8])([H:9])[H:10],58.0034101858817
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[N+:6]#[C-:5])([H:7])([H:8])[H:9],43.433524255117
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([N:4]([H:11])[H:12])([H:8])([H:9])[H:10].[N:2]#[C:3][C:5](=[O:6])[N:7]([H:13])[H:14],83.22499700051009
[C:1]([C:2]([C:3](=[O:4])[C:5](=[C:6]([H:14])[H:16])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:15]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],69.0583855094149
[C:2]([H:8])[H:9].[O:1]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],10.207208320828798
[O:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[C:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7],53.5296897611896
[N:1]([C:2][H:8])([C:5]1=[C:6]([H:11])[O:3][C:4]1([H:9])[H:10])[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7],65.03626417633221
